US06013658
N-methyl-N-((1R)-1-{N-methyl-N-[(1R)-1(3-methyl[1,2,4]oxadiazol-5-yl)-2-(2-naphthyl)ethyl]carbamoyl}-2-(2-naphthyl)ethyl)carbamic acid tertbutyl ester (2.4 g, 4.2 mmol) was dissolved in a mixture of trifluoroacetic acid (40 ml) and dichloromethane (40 ml) at 20° C. After 10 min the reaction mixture was concentrated in vacuo and coevaporated from dichloromethane (80 ml). The residue was crystallised from ethyl acetate to give 1.9 g of (2R)-2-methylamino-N-methyl-N-[(1R)-1-(3-methyl-[1,2,4]oxadiazol-5-yl)-2-(2-naphthyl)ethyl]-3-(2-naphthyl)propionamide, trifluoroacetic acid.

reactant | N-methyl-N-((1R)-1-{N-methyl-N-[(1R)-1(3-methyl[1,2,4]oxadiazol-5-yl)-2-(2-naphthyl)ethyl]carbamoyl}-2-(2-naphthyl)ethyl)carbamic acid tertbutyl ester | 4.2 mmol, 2.4 g | C(C)(C)(C)OC(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N([C@H](CC1=CC2=CC=CC=C2C=C1)C1=NC(=NO1)C)C)=O)C)=O | C35H38N4O4
solvent | trifluoroacetic acid | 40 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | (2R)-2-methylamino-N-methyl-N-[(1R)-1-(3-methyl-[1,2,4]oxadiazol-5-yl)-2-(2-naphthyl)ethyl]-3-(2-naphthyl)propionamide | 1.9 g | CN[C@@H](C(=O)N([C@H](CC1=CC2=CC=CC=C2C=C1)C1=NC(=NO1)C)C)CC1=CC2=CC=CC=C2C=C1 | C30H30N4O2
